US06265411B1
A solution of 5-(2-morpholinoethylaminosulphonyl)oxindole (320 mg, 0.98 mmol), (prepared as described for the starting material in Example 48), in DMF (3.5 ml) was added to a suspension of sodium hydride (39.4 mg, 0.98 mmol, prewashed with THF) in DMF (1.5 ml). The mixture was stirred for 30 minutes at ambient temperature and 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline (100 mg, 0.32 mmol), (prepared as described for the starting material in Example 22), was added. The mixture was stirred for 1 hour at 60° C., allowed to cool and partitioned between methylene chloride and saturated aqueous ammonium chloride solution. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methanoymethylene chloride (5/95 to 15/85). The purified product was triturated with ether, collected by filtration and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 2.2M ethereal hydrogen chloride (1 ml) was added. The volatiles were removed by evaporation, the solid residue was triturated with ether, collected by filtration and dried under vacuum to give 7-(2-(imidazol-1-yl)ethoxy)-6-methoxy-4-(5-(2-morpholinoethylaminosulphonyl)oxindol-3-yl)quinazoline hydrochloride (153 mg, 64%).

reactant | 5-(2-morpholinoethylaminosulphonyl)oxindole | 0.98 mmol, 320 mg | O1CCN(CC1)CCNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H19N3O4S
reactant | sodium hydride | 0.98 mmol, 39.4 mg | [H-].[Na+]
reactant | 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline | 0.32 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1C=NC=C1 | C14H13ClN4O2
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(2-(imidazol-1-yl)ethoxy)-6-methoxy-4-(5-(2-morpholinoethylaminosulphonyl)oxindol-3-yl)quinazoline hydrochloride | 153 mg, 64% | Cl.N1(C=NC=C1)CCOC1=C(C=C2C(=NC=NC2=C1)C1C(NC2=CC=C(C=C12)S(=O)(=O)NCCN1CCOCC1)=O)OC | InChI=1S/C28H31N7O6S.ClH/c1-39-24-15-21-23(16-25(24)41-13-10-35-6-4-29-18-35)30-17-31-27(21)26-20-14-19(2-3-22(20)33-28(26)36)42(37,38)32-5-7-34-8-11-40-12-9-34;/h2-4,6,14-18,26,32H,5,7-13H2,1H3,(H,33,36);1H
